US04931574
A 12-L three-neck, round-bottom flask equipped with a mechanical stirrer and a nitrogen bubbler, was charged with 375.0 g (1.79 moles) of 5-bromo-1-pentanyl acetate, 3.5 L of dimethyl sulfoxide, 407.0 g (1.63 moles) of rac-6-acetyl-3,4-dihydro-7-hydroxy-2H-1-benzopyran-2-carboxylic acid methyl ester and 510.0 g of anhydrous granular potassium carbonate in finely powdered form. The mixture was stirred at room temperature under nitrogen for 19 hours, poured into an extractor containing 10 L of deionized water, and extracted with 2×4 L and 1×2 L=10 L of ethyl acetate. The organic layer was washed with 2×4 L=8 L of 1:1 deionized water-saturated brine, followed by 2 L of saturated brine, dried (anhydrous sodium sulfate), and filtered. The solvent was removed at 45°/70 mm and then under high vacuum to give 648.3 g of crude rac-6-acetyl-3,4-dihydro-7-[(5-acetoxypentyl)oxy]-2 H-1-benzopyran-2-carboxylic acid methyl ester. The crude product was dissolved in 2 L of anhydrous ether and the solution was poured into a 12 L three-neck flask equipped with a mechanical stirrer. The stirred solution was cooled in an ice-bath and 2 L of petroleum ether (35°-60°) was slowly added, which resulted in the formation of a precipitate heavy enough to stop the stirrer. The solid was broken with a spatula and stirring was continued in the ice-bath for 1 hour. The product was collected by filtration, washed with cold (3°) 1:1 ether-petroleum ether, and dried at room temperature under high vacuum to give 601.5 g (97.7% yield) of rac-6-acetyl-3,4-dihydro-7-[(5-acetoxypentyl)oxy]-2H-1-benzopyran-2-carboxylic acid methyl ester as a white powder, mp 37°-49° C. UV (EtOH): λ max, 312 (ε=7,200), 268 (ε=11,200), 230 (ε=16,900), and 216 (ε=19,000) nm; MS: m/z 378 (M+, 40).

reactant | 5-bromo-1-pentanyl acetate | 1.79 moles, 375.0 g | C(C)(=O)OCCCCCBr | C7H13BrO2
reactant | dimethyl sulfoxide | 3.5 L | CS(=O)C | C2H6OS
reactant | rac-6-acetyl-3,4-dihydro-7-hydroxy-2H-1-benzopyran-2-carboxylic acid methyl ester | 1.63 moles, 407.0 g | COC(=O)C1OC2=C(CC1)C=C(C(=C2)O)C(C)=O | C13H14O5
reactant | potassium carbonate | 510.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 L | O | H2O
product | rac-6-acetyl-3,4-dihydro-7-[(5-acetoxypentyl)oxy]-2 H-1-benzopyran-2-carboxylic acid methyl ester | 648.3 g | COC(=O)C1OC2=C(CC1)C=C(C(=C2)OCCCCCOC(C)=O)C(C)=O | C20H26O7
